US09212182B2
A RBF was charged 2-methoxynaphthalene (2.00 g, 12.64 mmol) and THF (30 mL) to give a clear solution. n-butyllithium (2.5M in hexanes) (5.66 mL, 14.16 mmol) was added dropwise. The flask was cooled in a dry ice-acetone bath for 10 min and 1,2-dibromoethane (1.634 mL, 18.96 mmol) was added dropwise. The reaction was warmed to room temperature and stirred for 16 hours. NaOH (1 M, 10 mL, 10 mmol 0 was added and the reaction was heated to reflux for 1 hour. The mixture was cooled to room temperature and extracted with DCM (2×), and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The crude solid was recrystallized from heptane to give 2-bromo-3-methoxynaphthalene (1.75 g, 7.38 mmol, 58.4% yield) as an off-white solid. m/z (ESI) 237.1 (M+H)+.

reactant | 2-methoxynaphthalene | 12.64 mmol, 2.00 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | n-butyllithium | 14.16 mmol, 2.5M, 5.66 mL | C(CCC)[Li]
reactant | 1,2-dibromoethane | 18.96 mmol, 1.634 mL | BrCCBr | C2H4Br2
reactant | NaOH | [OH-].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 10 mmol, 1 M, 10 mL | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-bromo-3-methoxynaphthalene | 7.38 mmol, 1.75 g, 58.4% yield | BrC1=CC2=CC=CC=C2C=C1OC | C11H9BrO
